US05236952
A solution of 9.0 g of 4-(benzyloxy)-3-methoxy-α-(3-phenylpropyl)benzyl alcohol in 250 ml of methylene chloride is treated with 90 g of manganese dioxide and held at the reflux temperature for 2 hours. After cooling, the precipitate is filtered under suction and washed with methylene chloride. The filtrate is evaporated and the residue is recrystallized from ethyl acetate/ether. There is obtained 4'-(benzyloxy)-3'-methoxy-4-phenylbutyrophenone in the form of colorless crystals of m.p. 81°-82°.

reactant | 4-(benzyloxy)-3-methoxy-α-(3-phenylpropyl)benzyl alcohol | 9.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C(CCCC2=CC=CC=C2)O)C=C1)OC | C24H26O3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 90 g | [O-2].[O-2].[Mn+4]
product | 4'-(benzyloxy)-3'-methoxy-4-phenylbutyrophenone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CCCC1=CC=CC=C1)=O)OC | C24H24O3
